US04472433
To a solution of ethyl 2-[2-amino-3-(2-fluorophenoxy)phenyl]acetate (8.5 g.) in dioxane (100 ml.) was added N-chlorosuccinimide (4.3 g.), and the mixture was stirred for an hour at 80° C. To the reaction mixture was added conc. hydrochloric acid (0.1 ml.), and the mixture was stirred for 10 minutes at ambient temperature. Dioxane was distilled off from the resulting mixture under reduced pressure. To the residue was added water and the mixture was extracted with ethyl acetate (200 ml.) twice. The extract was washed with a saturated aqueous solution of sodium chloride (100 ml.) twice, dried over magnesium sulfate and then evaporated under reduced pressure. The residue was washed with a mixture of diethyl ether and n-hexane (1:10) and recrystallized from ethanol to give crystals of 2-oxo-5-chloro-7-(2-fluorophenoxy)indoline (4.2 g.), mp 204° to 207° C.

reactant | ethyl 2-[2-amino-3-(2-fluorophenoxy)phenyl]acetate | 8.5 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)OCC | C16H16FNO3
reactant | N-chlorosuccinimide | 4.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-5-chloro-7-(2-fluorophenoxy)indoline | 4.2 g | O=C1NC2=C(C=C(C=C2C1)Cl)OC1=C(C=CC=C1)F | C14H9ClFNO2
